US07687495B2
b) 2-[(2S,4R,5R)-4-(4-Methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-ethylamine
To a solution of 1.9 g of [(2S,4R,5R)-4-(4-methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-acetonitrile (from example 25 g) in 30 ml of tetrahydrofuran are added 11.0 ml of a 1M solution of borane tetrahydrofuran. The reaction mixture is stirred overnight, quenched with methanol and concentrated under reduced pressure. The residue is purified by flash chromatography (SiO2 60 F) to afford the title compound as a yellow oil. Rf=0.09 (dichlormethane-methanol-25% ammonia conc. 200:10:1); Rt=4.32.

reactant | [(2S,4R,5R)-4-(4-methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-acetonitrile | 1.9 g | COC1=CC=C(C=C1)[C@H]1C[C@H](N(C[C@@H]1OCC=1C=CC2=C(N(CCO2)CCCOC)C1)S(=O)(=O)C1=CC=C(C=C1)C)CC#N | C34H41N3O6S
reactant | borane tetrahydrofuran | O1CCCC1.B
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-[(2S,4R,5R)-4-(4-Methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-ethylamine | COC1=CC=C(C=C1)[C@H]1C[C@H](N(C[C@@H]1OCC=1C=CC2=C(N(CCO2)CCCOC)C1)S(=O)(=O)C1=CC=C(C=C1)C)CCN | C34H45N3O6S
